US07960369B2
ethyl (E)-3-[4-[[methyl(4-phenyl-2-thiazolyl)amino]methyl]phenyl]propenoate
To an ice-cooled solution of ethyl diethylphosphonoacetate (0.81 g, 3.6 mmol) in tetrahydrofuran (10 mL) was added 60% sodium hydride (0.14 g, 3.4 mmol), and the mixture was stirred for 30 min. A solution of 4-[[methyl(4-phenyl-2-thiazolyl)amino]methyl]benzaldehyde (0.80 g, 2.6 mmol) in tetrahydrofuran (10 mL) was added dropwise. The mixture was stirred at room temperature for 3 hrs, water was added, and the mixture was extracted with ethyl acetate. The extract was dried and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=18:1) to give the title compound (0.96 g, yield 98%) as a powder.

reactant | ethyl diethylphosphonoacetate | 3.6 mmol, 0.81 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 3.4 mmol, 0.14 g | [H-].[Na+]
reactant | 4-[[methyl(4-phenyl-2-thiazolyl)amino]methyl]benzaldehyde | 2.6 mmol, 0.80 g | CN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(C=O)C=C1 | C18H16N2OS
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | ethyl (E)-3-[4-[[methyl(4-phenyl-2-thiazolyl)amino]methyl]phenyl]propenoate | 0.96 g, yield 98% | CN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(C=C1)/C=C/C(=O)OCC | C22H22N2O2S
